US04303655
A mixture of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4yl)glyoxylamido]-3-cephem-4-carboxylic acid, (1.8 g.) and 98 to 100% formic acid (40 ml.) was allowed to stand for 5 hours. After the reaction, the reaction mixture was post-treated in the similar manners as in Examples 16 to 17 to give 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-amino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-imino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, (0.32 g.), mp. 147° to 160° C. (dec.).

reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)NC(=O)OC(C)(C)CC)=O)=O | C21H24N8O7S3
reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4yl)glyoxylamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2NC(SC2)=NC(=O)OC(C)(C)CC)=O)=O | C21H24N8O7S3
solvent | formic acid | 40 ml | C(=O)O | CH2O2
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-amino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)N)=O)=O | C15H14N8O5S3
